US04960766
A solution of tert-butyl 2-hydroxyimino-3-oxobutyrate (130 g), aniline (76 ml) and acetic acid (14 ml) in benzene (1.2 l) was refluxed with Dean Stark water separator for 5 hours. The resulting solution was cooled and washed with 5% aqueous sodium bicarbonate solution and water. After being dried over magnesium sulfate, the organic solvent was evaporated in vacuo. The residue was triturated with a mixture of n-hexane (300 ml) and diisopropyl ether (100 ml). The precipitate was collected by filtration, washed with n-hexane to give tert-butyl 2-hydroxyimino-3-phenyliminobutyrate (71.2 g).

reactant | tert-butyl 2-hydroxyimino-3-oxobutyrate | 130 g | ON=C(C(=O)OC(C)(C)C)C(C)=O | C8H13NO4
reactant | aniline | 76 ml | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | benzene | 1.2 l | C1=CC=CC=C1 | C6H6
product | tert-butyl 2-hydroxyimino-3-phenyliminobutyrate | 71.2 g | ON=C(C(=O)OC(C)(C)C)C(C)=NC1=CC=CC=C1 | C14H18N2O3
